US05290630
2,5-bis-(2-acetoxyethyloxy)nitrobenzene
Hydroquinone-bis(2-hydroxyethylether (11.0 g; ) 0.057 mol) was stirred in glacial acetic acid (180 ml) and acetic anhydride (17.0 g; 0.166 mol) was added dropwise at room temperature. The mixture was heated to and maintained at reflux temperature for 18 hours, then cooled to below 20° C. and a mixture of 72% nitric acid (4.7 g; 0.054 mol) in glacial acetic acid (20 ml) was added dropwise over 20 minutes maintaining the temperature below 20° C. The reaction mixture was stirred below 20° C. for 16 hours then drowned into water and extracted with ether (2×150 ml). The combined organic extracts were washed with water, saturated sodium bicarbonate solution and brine. After drying and filtration the ether solution was evaporated to leave a brown oil which was dried over potassium hydroxide to give a yellow solid (12.83 g) which was recrystallised from water/ethanol (3:1) to give the title compound as a yellow solid (10.22 g) m.p. 67.5°-70° C.

reactant | Hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 2-hydroxyethylether | 0.057 mol, 11.0 g | OCCOCCO | C4H10O3
reactant | acetic anhydride | 0.166 mol, 17.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 0.054 mol, 4.7 g | [N+](=O)(O)[O-] | HNO3
reactant | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2,5-bis-(2-acetoxyethyloxy)nitrobenzene | 12.83 g | C(C)(=O)OCCOC1=C(C=C(C=C1)OCCOC(C)=O)[N+](=O)[O-] | C14H17NO8
